US07741327B2
In a Parr shaker bottle was placed (S)-2-benzyloxycarbonylamino-4-(t-butyl-dimethyl-silanyloxy)-butyric acid methyl ester (478 mg, 1.25 mmol), methanol (10 mL) and 10% palladium on activated carbon (100 mg). The bottle was placed on the Parr Shaker and charged with hydrogen to 40 psi and shaken for 1.5 h. After this time, the mixture was filtered through celite and the filterate concentrated in vacuo to afford (S)-2-amino-4-(t-butyl-dimethyl-silanyloxy)-butyric acid methyl ester (291 mg, 94%) as a colorless oil.

reactant | (S)-2-benzyloxycarbonylamino-4-(t-butyl-dimethyl-silanyloxy)-butyric acid methyl ester | 1.25 mmol, 478 mg | COC([C@H](CCO[Si](C)(C)C(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C19H31NO5Si
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | (S)-2-amino-4-(t-butyl-dimethyl-silanyloxy)-butyric acid methyl ester | 291 mg, 94% | COC([C@H](CCO[Si](C)(C)C(C)(C)C)N)=O | C11H25NO3Si
